US06797726B1
In a mixture of 1 mL of toluene and 3.5 ml of 50% (W/V) aqueous solution of sodium hydroxide is suspended 0.70 g of 2-(1-naphthyl)-1-ethanol, to which are added 1.00 g of N-(2-chloroethyl)-N,N-diethylamine hydrochloride and 0.14 g of tetra-n-butylammonium hydrogen sulfate. The mixture is heated under reflux for 2.5 hours. Water and toluene are added to the reaction mixture, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent:chloroform:methanol=10:1). Thus, 1.06 g of N,N-diethyl-N-{2-[2-(1-naphthyl)ethoxy]ethyl}-amine is obtained as an oily product.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-(1-naphthyl)-1-ethanol | 0.70 g | C1(=CC=CC2=CC=CC=C12)CCO | C12H12O
reactant | N-(2-chloroethyl)-N,N-diethylamine hydrochloride | 1.00 g | Cl.ClCCN(CC)CC
reactant | Water | O | H2O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium hydrogen sulfate | 0.14 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N,N-diethyl-N-{2-[2-(1-naphthyl)ethoxy]ethyl}-amine | 1.06 g | C(C)N(CCOCCC1=CC=CC2=CC=CC=C12)CC | C18H25NO
